US04853392
5-(2-Chlorophenyl)-6-methoxycarbonyl-1,3-dimethyl-7-[2-(2,4,5-trimethylimidazol-1-yl)ethoxymethyl]-1,2,3,4,5,8-hexahydro-2,4-dioxopyrido[2,3-d]pyrimidine
The title compound (210 mg) was prepared from 2-chlorobenzaldehyde (1.4 g), 6-amino-1,3-dimethyl-2,4-dioxopyrimidine (1.55 g) and methyl 4-[2-(2,4,5-trimethylimidazol-1-yl)ethoxy]3-oxobutanoate (2.68 g) by the method of Exmaple 1. M.p. 226°-228° C.

reactant | 2-chlorobenzaldehyde | 1.4 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 6-amino-1,3-dimethyl-2,4-dioxopyrimidine | 1.55 g | NC1=CC(N(C(N1C)=O)C)=O | C6H9N3O2
reactant | methyl 4-[2-(2,4,5-trimethylimidazol-1-yl)ethoxy]3-oxobutanoate | 2.68 g | CC=1N(C(=C(N1)C)C)CCOCC(CC(=O)OC)=O | C13H20N2O4
product | 5-(2-Chlorophenyl)-6-methoxycarbonyl-1,3-dimethyl-7-[2-(2,4,5-trimethylimidazol-1-yl)ethoxymethyl]-1,2,3,4,5,8-hexahydro-2,4-dioxopyrido[2,3-d]pyrimidine | 210 mg | ClC1=C(C=CC=C1)C1C(=C(NC=2N(C(N(C(C21)=O)C)=O)C)COCCN2C(=NC(=C2C)C)C)C(=O)OC | C26H30ClN5O5
